US06353017B1
A solution of allyl 3-(chloromethyl)-benzoate (54.5 g, 0.259 mmol) and sodium iodide (46.56 g, 0.311 mol) in acetone (500 mL) is stirred at room temp. for 6.5 hours, after which time the mixture is filtered. The filitrate is evaporated and the residue is dissolved in diethyl ether (500 mL), then washed with water (1×200 mL), 5% sodium sulfite solution (1×200 mL) and brine (1×200 mL), dried over magnesium sulfate, and evaporated to yield allyl 3-(iodomethyl)-benzoate as a white solid, which was is directly.

reactant | allyl 3-(chloromethyl)-benzoate | 0.259 mmol, 54.5 g | ClCC=1C=C(C(=O)OCC=C)C=CC1 | C11H11ClO2
reactant | sodium iodide | 0.311 mol, 46.56 g | [I-].[Na+]
solvent | acetone | 500 mL | CC(=O)C | C3H6O
product | allyl 3-(iodomethyl)-benzoate | ICC=1C=C(C(=O)OCC=C)C=CC1 | C11H11IO2
